US07541372B2
a) 2-Chloro-6-methoxy-3-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4] oxadiazol-2-yl]-pyridine
To a solution of 2,6-dichloro-3-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine (316 mg, 0.85 mmol) in tetrahydrofuran (3 mL) and methanol (3 mL) was added sodium hydride (55% dispersion in mineral oil, 41 mg, 0.93 mmol) and the reaction mixture was stirred for 4 h at ambient temperature. The resulting suspension was diluted with dichloromethane (10 mL) and was washed brine (half saturated, 10 mL). The aqueous layers were extracted with dichloromethane (10 mL) and dried over sodium sulfate. The filtrate was treated with tert-butylmethylether (20 mL) and the dichloromethane was distilled off. The resulting suspension was stirred for 5 min, filtered off and washed with tert-butylmethylether affording the title compound (51 mg, 16%) which was obtained as a white solid. MS: m/e=369.0 [M+H]+.

reactant | 2,6-dichloro-3-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 0.85 mmol, 316 mg | ClC1=NC(=CC=C1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)Cl | C17H10Cl2N4O2
reactant | sodium hydride | 0.93 mmol, 41 mg | [H-].[Na+]
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Chloro-6-methoxy-3-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4] oxadiazol-2-yl]-pyridine | ClC1=NC(=CC=C1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C18H13ClN4O3
